US07407969B2
Intermediate (32) (0.1382 mol) was added at 55° C. to a mixture of (±)-1-[ethoxy(3-methoxy-2-quinolinyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine (0.0346 mol) and potassium carbonate (0.242 mol) in acetonitrile (108 ml) and DMF (20 ml) (1 equiv of intermediate (32) was added every hour). The mixture was stirred at 55° C. for 1 hour and filtered. The filtrate was poured out into H2O and the mixture was extracted with EtOAc. The organic layer was separated, washed with a saturated NaCl solution, dried (MgSO4), filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH/NH4OH 98/2/0.4 and 96/4/0.5; 20-45 μm). Two fractions were collected and their solvents were evaporated, yielding 2.5 g (23%) of (±)-1,1-dimethylethyl [1-[[4-[[1-[ethoxy(3-methoxy-2-quinolinyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]methyl]-2-methylpropyl]carbamate (comp. 38).

reactant | (±)-1-[ethoxy(3-methoxy-2-quinolinyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine | 0.0346 mol | C(C)OC(N1C(=NC2=C1C=CC=C2)NC2CCNCC2)C2=NC1=CC=CC=C1C=C2OC | C25H29N5O2
reactant | potassium carbonate | 0.242 mol | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 108 ml | C(C)#N | C2H3N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (±)-1,1-dimethylethyl [1-[[4-[[1-[ethoxy(3-methoxy-2-quinolinyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]methyl]-2-methylpropyl]carbamate | 2.5 g, 23% | C(C)OC(N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CC(C(C)C)NC(OC(C)(C)C)=O)C2=NC1=CC=CC=C1C=C2OC | C35H48N6O4
